US05885997
4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde oxime
To a stirred solution of hydroxylamine hydrochloride (10.0 g, 143.0 mmol) and sodium acetate trihydrate (20.0 g, 146.9 mmol) in water (100 ml) at 30° C. was added a hot solution of 4-[2-[-2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde (5.72 g, 20.0 mmol) (obtained from preparation 3) in ethanol (100 ml). The reaction mixture was immersed in a preheated oil bath (95° C.) and refluxed for 3 h. The reaction mixture was then cooled to room temperature and concentrated to a volume where crystals of oxime started separating out and the mixture was kept aside for 30 min. to 1 h at 25° C. The resultant crystals were filtered and washed with water and dried to obtain the title compound (5.42 g, 90%).

reactant | hydroxylamine hydrochloride | 143.0 mmol, 10.0 g | Cl.NO
reactant | sodium acetate trihydrate | 146.9 mmol, 20.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 4-[2-[-2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde | 20.0 mmol, 5.72 g | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=O)C=C1 | C16H18N2O3
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde oxime | 5.42 g, 90% | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=NO)C=C1 | C16H19N3O3
